US08372864B2
In an autoclave, 1.52 g of methyl 6-nitro-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxylate are dissolved in 15 cm3 of methanol. 100 mg of 5% palladium-on-carbon in suspension in 1 cm3 of methanol are added. The autoclave is placed under 2 bar of hydrogen pressure and the mixture is stirred for 5 min at a temperature in the vicinity of 25° C. The reaction medium is filtered through a celite pellet. The celite is rinsed using 2×10 cm3 of methanol, then the organic phase is concentrated using a rotary evaporator under reduced pressure (5 kPa). The residual yellow oil is purified by column chromatography (silica 60 column—particle size 15-40 μm—150 g—eluent: 60% cyclohexane/40% ethyl acetate). The fractions are concentrated under reduced pressure (5 kPa). 1.05 g of methyl 6-amino-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxylate are obtained in the form of a pale yellow solid.

reactant | hydrogen | [H][H] | H2
reactant | methyl 6-nitro-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxylate | 1.52 g | [N+](=O)([O-])C=1C=C(C=2CN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C17H22N2O5
solvent | methanol | 15 cm3 | CO | CH4O
solvent | methanol | 1 cm3 | CO | CH4O
catalyst | palladium-on-carbon | 100 mg | [Pd] | Pd
product | methyl 6-amino-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxylate | 1.05 g | NC=1C=C(C=2CN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C17H24N2O3
